* C:\users\yura\My Documents\robot-dream\memristors\LTSPICE\Main_sch.asc
V1 +5V 0 5
V2 -5V 0 -5
XU1 N006 N009 +5V -5V PULSE level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C1 N007 INPUT 0.1µ V=25 Irms=0 Rser=0.017282 Lser=350p mfg="Würth Elektronik" pn="885012207072 WCAP-CSGP 0805" type="X7R"
C2 N009 0 0.012µ V=25 Irms=332m Rser=0.302696 Lser=0 mfg="KEMET" pn="C0805F123K3RAC" type="X7R"
R1 0 N007 100K tol=1 pwr=0.1
R2 PULSE N009 75K tol=1 pwr=0.1
R3 N006 PULSE 200K tol=1 pwr=0.1
R4 0 N006 806K tol=1 pwr=0.1
D1 N007 N006 1N914
D2 0 N009 1N914
XU2 0 N008 +5V -5V INT1 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C3 INT1 N008 0.0068µ V=25 Irms=0 Rser=0.0165691 Lser=256.21p mfg="Würth Elektronik" pn="885012009005 WCAP-CSGP 1210" type="NP0"
R5 INT1 N008 100K tol=1 pwr=0.1
R6 N008 PULSE 100K tol=1 pwr=0.1
XU3 0 N002 +5V -5V INT2 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C4 INT2 N002 0.0068µ V=25 Irms=0 Rser=0.0165691 Lser=256.21p mfg="Würth Elektronik" pn="885012009005 WCAP-CSGP 1210" type="NP0"
R7 INT2 N002 100K tol=1 pwr=0.1
R8 N002 N001 100K tol=1 pwr=0.1
V3 +15V 0 15
V4 -15V 0 -15
V5 INPUT 0 PULSE(-5 5 0 1n 1n 0.0005 0.003)
V6 N001 0 PULSE(-5 5 0 1n 1n 0.0015 0.0031)
XU4 N005 N003 +15V -15V N004 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R9 N005 INT2 100K tol=1 pwr=0.1
R10 N005 INT1 100K tol=1 pwr=0.1
R11 0 N005 100K tol=1 pwr=0.1
R12 0 N003 100K tol=1 pwr=0.1
R13 N003 N004 200K tol=1 pwr=0.1
.model D D
.lib C:\users\yura\My Documents\LTspiceXVII\lib\cmp\standard.dio
.lib memrs.lib
.tran 0.5
.lib UniversalOpamps2.sub
.backanno
.end
