* C:\users\yura\My Documents\robot-dream\memristors\LTSPICE\Main_sch.asc
V1 +5V 0 5
V2 -5V 0 -5
XU1 N011 N014 +5V -5V PULSE level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C1 N012 INPUT 0.1µ V=25 Irms=0 Rser=0.017282 Lser=350p mfg="Würth Elektronik" pn="885012207072 WCAP-CSGP 0805" type="X7R"
C2 N014 0 0.012µ V=25 Irms=332m Rser=0.302696 Lser=0 mfg="KEMET" pn="C0805F123K3RAC" type="X7R"
R1 0 N012 100K tol=1 pwr=0.1
R2 PULSE N014 75K tol=1 pwr=0.1
R3 N011 PULSE 200K tol=1 pwr=0.1
R4 0 N011 806K tol=1 pwr=0.1
D1 N012 N011 1N914
D2 0 N014 1N914
XU2 0 N013 +5V -5V INT1 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C3 INT1 N013 0.0068µ V=25 Irms=0 Rser=0.0165691 Lser=256.21p mfg="Würth Elektronik" pn="885012009005 WCAP-CSGP 1210" type="NP0"
R5 INT1 N013 100K tol=1 pwr=0.1
R6 N013 PULSE 100K tol=1 pwr=0.1
XU3 0 N008 +5V -5V INT2 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C4 INT2 N008 0.0068µ V=25 Irms=0 Rser=0.0165691 Lser=256.21p mfg="Würth Elektronik" pn="885012009005 WCAP-CSGP 1210" type="NP0"
R7 INT2 N008 100K tol=1 pwr=0.1
R8 N008 N007 100K tol=1 pwr=0.1
V3 +15V 0 15
V4 -15V 0 -15
V5 INPUT 0 PULSE(-3 3 0 1n 1n 0.0005 0.003)
V6 N007 0 PULSE(-3 3 0.0015 1n 1n 0.0015 0.0031)
XU4 N010 N009 +15V -15V SOMBRERO level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R9 N010 INT2 100K tol=1 pwr=0.1
R10 N010 INT1 100K tol=1 pwr=0.1
R11 0 N010 100K tol=1 pwr=0.1
R12 0 N009 100K tol=1 pwr=0.1
R13 N009 SOMBRERO 200K tol=1 pwr=0.1
D3 0 SOMBRERO BZX84C15L
XU5 N005 N006 +15V -15V HEBB level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R14 SOMBRERO N005 100K tol=1 pwr=0.1
R15 SOMBRERO N006 100K tol=1 pwr=0.1
R16 N006 HEBB 100K tol=1 pwr=0.1
M1 N005 INVPULSE 0 0 IRFP2907
XU6 N001 N004 +15V -15V INVPULSE level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C5 N004 0 0.33µ V=25 Irms=332m Rser=0.302696 Lser=0
R17 INVPULSE N004 82.5K tol=1 pwr=0.1
R18 N001 INVPULSE 187.5K tol=1 pwr=0.1
R19 0 N001 806K tol=1 pwr=0.1
D4 N003 N001 1N914
D5 0 N004 1N914
C6 N003 SOMBRERO 0.1µ V=25 Irms=0 Rser=0.017282 Lser=350p mfg="Würth Elektronik" pn="885012207072 WCAP-CSGP 0805" type="X7R"
R20 0 N003 100K tol=1 pwr=0.1
D6 0 INVPULSE D
.model D D
.lib C:\users\yura\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\yura\My Documents\LTspiceXVII\lib\cmp\standard.mos
.lib memrs.lib
.tran 0.5
.lib UniversalOpamps2.sub
.backanno
.end
